US07732448B2
0.5 g of 4,6-dichloropyrimidine and 0.76 g of cis-2,6-dimethylpiperidine were mixed and stirred for 10 hours at 90%. The reaction mixture was subjected to silica gel column chromatography to obtain 0.21 g of 4-chloro-6-(cis-2,6-dimethylpiperidino)pyrimidine.

reactant | 4,6-dichloropyrimidine | 0.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | cis-2,6-dimethylpiperidine | 0.76 g | C[C@@H]1N[C@@H](CCC1)C | C7H15N
product | 4-chloro-6-(cis-2,6-dimethylpiperidino)pyrimidine | 0.21 g | ClC1=NC=NC(=C1)N1[C@H](CCC[C@H]1C)C | C11H16ClN3
